US04064262
1 g of 2-(2-furyl)-4-methyl-1,3,4-thidiazolidine-5-thione was dissolved in 50 ml of warm ethanol, and after cooling to room temperature 1.26 g of dimethyl sulphate was added. After stirring for 2.5 hours at 50°, 0.69 g potassium was added, the mixture was heated for 1.5 hours at 50°, then allowed to stand overnight. The reaction mixture was filtered and the filtrate was evaporated to dryness. The residue was recrystallised from ethanol and pure S-methyl 3-furfurylidene- 2-methyl-dithiocarbazate (mp = 103°) was obtained.

reactant | 2-(2-furyl)-4-methyl-1,3,4-thidiazolidine-5-thione | 1 g | O1C(=CC=C1)C1SC(N(N1)C)=S | C7H8N2OS2
reactant | dimethyl sulphate | 1.26 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium | 0.69 g | [K] | K
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | S-methyl 3-furfurylidene- 2-methyl-dithiocarbazate | C(C1=CC=CO1)=NN(C(=S)SC)C | C8H10N2OS2
